Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
IABP with removal ___
 
History of Present Illness:
___ male with past medical history significant for
hypertension, morbid obesity, OSA, sarcoidosis, history of
testicular cancer, and GERD who initially presented to ___ 30 minutes after he started experiencing
left-sided chest pain, jaw pain, and left arm pain.  Patient
reports that he was sitting in a chair drinking soda at onset of
symptoms.  Initial pain was then associated with diaphoresis 
that
made him worry enough to head to the ED. in the ___ ED, patient
was noted to have ST elevations in the inferior leads.  He was
given a full dose aspirin, a loading dose of ticagrelor, and
nitroglycerin as needed and transferred to the Cath Lab for
immediate PCI.  Left heart catheterization was notable for
complete occlusion of the RCA.  The procedure was complicated by
an inability to keep RCA patent with angioplasty.  The RCA clot
was also unable to be aspirated via thrombectomy.  No stenting
was performed and IABP was placed due to continued angina. 
 
On arrival to the CCU, patient endorses above history.  Reports
that his pain is currently a 1 out of 10.  States that pain
during cath decreased from a 10 to a 2.5.  Patient does report
right-sided shoulder pain that preceded his STEMI but no other
complaints currently.  Patient also notes that he missed taking
his antihypertensive medications for ___ days prior to his MI.

 
Past Medical History:
1. Cardiac Risk Factors  
- Hypertension  

2. Cardiac History  
- Unknown 

3. Other PMH 
- h/o Testicular Cancer
- Morbid Obesity
- OSA
- Sarcoidosis
- GERD 
- Psoriasis

 
Social History:
___
Family History:
Grandfather: ___
Father: ___, prostate cancer, lung cancer,
hyperlipidemia, diabetes, aortic valve disease
Mother: ___ cancer, dementia, hypertension, sleep apnea
Sister: ___ cancer
 
Physical Exam:
ADMISSION EXAM
VS: Reviewed in Metavision
___: NAD, oriented x3. Mood, affect appropriate.  
HEENT: NC/AT, Sclera anicteric, PERRL, EOMI.  
NECK: Supple, no appreciable JVD.
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops.  
LUNGS: CTAB but decreased breath sounds ___ body habitus. 
ABDOMEN: Soft, obese, NTND, +BS.
EXTREMITIES: Warm, no peripheral edema. 
SKIN: No rashes.  
PULSES: 1+ DPs.   

DISCHARGE EXAM
 
___ 0731 Temp: 98.7 PO BP: 103/56 HR: 68 RR: 18 O2 sat: 94%
O2 delivery: RA 
___ Total Intake: 1243ml PO Amt: 580ml IV Amt Infused: 
663ml

___ Total Output: 1400ml Urine Amt: 1400ml 

___: Well appearing male, obese, no acute distress
HEENT: JVP at not seen at 45 degrees 
Heart: Distant heart sounds, RRR, s1 and s2 heard, no m/r/g
Lungs: Bibasilar crackles appreciated on auscultation
Abdomen: Obese, NABS, non distended, non tender, no rebound or
guarding
Extremities: trace pitting edema at the ankles
 
Pertinent Results:
ADMISSION LABS
___ 04:16AM BLOOD WBC-10.2* RBC-4.86 Hgb-14.7 Hct-43.9 
MCV-90 MCH-30.2 MCHC-33.5 RDW-14.0 RDWSD-46.6* Plt ___
___ 04:16AM BLOOD ___ PTT-63.0* ___
___ 04:16AM BLOOD Glucose-113* UreaN-17 Creat-0.9 Na-141 
K-4.2 Cl-103 HCO3-22 AnGap-16
___ 04:16AM BLOOD ALT-34 AST-47* AlkPhos-77 TotBili-0.8
___ 04:16AM BLOOD CK-MB-40* cTropnT-0.27*
___ 04:16AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.2
___ 04:22AM BLOOD Lactate-1.4

INTERVAL LABS

___ 05:59AM BLOOD CK-MB-56* MB Indx-6.8* cTropnT-2.32*

DISCHARGE LABS

IMAGING/STUDIES

CXR ___
No previous images.  There is enlargement of the cardiac 
silhouette without vascular congestion, pleural effusion, or 
acute focal pneumonia.  The tip of the IABP lies approximately 2 
cm below the top of the transverse arch of the aorta. 

TTE ___
Poor image quality. Echo contrast was used to opacify LV. The 
left atrium is moderately dilated. The
right atrium is mildly enlarged. The LVEF is at least moderately 
reduced secondary to hypokinesis of the
inferior septum, akinesis of the inferior free wall, and 
dyskinesis of the posterior wall. The visually
estimated left ventricular ejection fraction is 35%. The right 
ventrlcle is not well seen. The aortic sinus
diameter is normal for gender with mildly dilated ascending 
aorta. The aortic arch is mildly dilated. The
aortic valve is not well seen. There is no aortic valve 
stenosis. There is no aortic regurgitation. The
mitral leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral
regurgitation. The tricuspid valve is not well seen.

Discharge Labs:
=============================

___ 06:55AM BLOOD WBC-10.4* RBC-4.49* Hgb-13.5* Hct-42.1 
MCV-94 MCH-30.1 MCHC-32.1 RDW-14.6 RDWSD-50.2* Plt ___
___ 06:55AM BLOOD Plt ___
___ 06:55AM BLOOD Glucose-90 UreaN-18 Creat-0.9 Na-142 
K-4.4 Cl-108 HCO3-22 AnGap-12
___ 06:55AM BLOOD Calcium-8.8 Phos-3.4 Mg-2.3 Cholest-97
___ 07:29AM BLOOD %HbA1c-5.3 eAG-105
___ 06:55AM BLOOD Triglyc-73 HDL-28* CHOL/HD-3.5 LDLcalc-54 
LDLmeas-56
___ 06:55AM BLOOD TSH-1.7
___ 06:55AM BLOOD Free T4-1.2
___ 04:22AM BLOOD Lactate-1.4
 
Brief Hospital Course:
Mr. ___ is a ___ male with past medical history of 
hypertension, testicular cancer, GERD, sarcoidosis, psoriasis, 
morbid obesity, and OSA who initially presented to ___ 
___, found to have RCA STEMI with unsuccessful PCI 
status post IABP placement, transferred to ___ for further 
management, now s/p IABP pull and transfer to the floor. 

ACUTE ISSUES:
=============
#Inferior STEMI - Patient initially presented with left sided 
chest pain to ___, found to have inferior 
lead STE with elevated troponins that peaked at 2.32, received 
full dosing aspirin and ticagrelor load. Also underwent cardiac 
catheterization found to have RCA complete occlusion. Procedure 
was complicated by unsuccessful angioplasty, also clot unable to 
be aspirated by thrombectomy. Stenting was subsequently deferred 
and IABP was placed due to continued angina. Patient was 
subsequently transferred to the CCU. He remained hemodynamically 
stable and IABP was subsequently removed. He was medically 
managed, integrillin drip was discontinued after 18 hours, 
heparin drip was discontinued after 48 hours. He was continued 
on aspirin 81mg daily, ticagrelor 90mg BID, atorvastatin 80mg. 
He was started on metoprolol 6.25mg PO Q6H and captopril 12.5mg 
TID. After transfer to the cardiology floor, he was transitioned 
from ticagrelor to clopidogrel due to cost considerations as the 
patient's insurance did not cover ticagrelor. He was also 
transitioned to a stable Lisinopril dose of 5mg after he 
tolerated the captopril. 

#Hypertension - Patient was started on metoprolol 6.25mg PO Q6H 
and captopril 12.5mg TID and transitioned to Lisinopril 5mg. We 
his home amlodipine, losartan, and hydrochlorothiazide in the 
setting of starting an ACEi. We did not restart his home 
amlodipine or HCTZ ___ since his blood pressure on the 
Lisinopril were very controlled with BP max in the 110s. 

# Leukocytosis - Found to have leukocytosis, without obvious 
infectious source, remained afebrile. Leukocytosis was thought 
to be reactive in the setting of STEMI per above, empiric 
antibiotics were deferred. 

CHRONIC ISSUES: 
===============
#H/o Testicular Cancer - s/p orchiectomy, followed outpatient by 
oncology. Currently in remission.

#GERD - Continued home omeprazole 

#Sarcoidosis - Not on active treatment. 

#OSA - Continued CPAP at night

TRANSITIONAL ISSUES:
====================

[ ] Stopped amlodipine, HCTZ, and losartan. Blood pressures in 
100s once started on Lisinopril 5mg. Will need follow up BP eval 
and may need to restart on prior amlodipine vs. HCTZ if BPs 
elevated
[ ] Will need outpatient repeat TTE to evaluate for ___ HFrEF of 
35% to see if regains an function in 40 days
[ ] Please obtain repeat chem10 in ___ days with you primary 
care physician

___:
==========================
Aspirin 81mg once daily
Plavix 75mg daily (chosen as ticagrelor cost prohibitive)
Metoprolol 25mg once daily
Atorvastatin 80mg once daily 

Changed Medication Doses:
==========================
None

Medications Stopped/Held:
==========================
- amlodipine 10mg stopped now that BPs controlled on ACEi 
- HCTZ held as above
- Losartan stopped since started on ACEi (Lisinopril 5mg) 

Discharge wt.: 160.2 kg
Discharge Cr. 0.9
Discharge hgb: 13.5

CONTACT:
___ 
Relationship: Wife 
Cell phone: ___ 

CODE STATUS: Full Code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
Once daily Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Once Daily Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once daily Disp #*30 
Tablet Refills:*0 
4.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth Once daily Disp #*30 
Tablet Refills:*0 
5.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once daily 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Inferior Myocardial Infarction (RCA) 
Hypertension
Heart Failure Reduced Ejection Fraction  
Obstructive Sleep Apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you in the hospital!

WHY WERE YOU ADMITTED:
- You had chest pain, and we determined that you were having a 
heart attack.

WHAT HAPPENED IN THE HOSPITAL:
- You were transferred from ___ for 
management in our Coronary Care Unit.
- You were given multiple medications to treat your heart 
attack.

WHAT SHOULD YOU DO AFTER LEAVING:
- Please follow-up with your doctors as ___.
- Please take your medications as prescribed.
- If you notice worsening chest pain or shortness of breath, 
please return to the hospital.

Thank you for allowing us to take part in your care!

Your ___ team
 
Followup Instructions:
___